US07737145B2
A solution of methyl hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoate (0.1 g, 0.27 mmol) in methanol (2 mL) was treated with aqueous sodium hydroxide (2M, 1 mL). After 2 hours at ambient temperature, the reaction was diluted with water, neutralized with 1 N hydrochloric acid, and extracted with n-butanol. The combined extracts were dried and concentrated to give 0.1 g of hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoic acid; 1H NMR (300 MHz, CD3OD) δ 7.41 (d, 2H), 7.36 (dd, 2H), 7.34 (d, 2H), 7.29 (dd, 1H), 6.98 (d, 2H), 5.05 (s, 2H), 3.81 (s, 2H), 3.25 (m, 2H), 3.23 (m, 2H), 3.20 (t, 2H), 3.00 (m, 2H), 2.91 (m, 2H), 2.56 (t, 2H), 2.02 (m, 2H) ppm.

reactant | methyl hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoate | 0.27 mmol, 0.1 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)CN1CCN(CCC1)CCC(=O)OC | C23H30N2O3
reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
product | hexahydro-4-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine-1-propanoic acid | 0.1 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)CN1CCN(CCC1)CCC(=O)O | C22H28N2O3
